### PR TITLE
[Merged by Bors] - feat(Data/Matrix/Mul): add `vecMulVec_eq_zero` and `vecMulVec_ne_zero`

### PR DESCRIPTION
**Pull request by themathqueen**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Mul.lean [hunk 1]
```diff
@@ -542,6 +542,17 @@ lemma col_vecMulVec [Mul α] (w : m → α) (v : n → α) (j : n) :
 @[simp] theorem vecMulVec_zero [MulZeroClass α] (w : m → α) : vecMulVec w (0 : m → α) = 0 :=
   ext fun _ _ => mul_zero _
 
+theorem vecMulVec_ne_zero [Mul α] [Zero α] [NoZeroDivisors α] {a b : n → α}
+    (ha : a ≠ 0) (hb : b ≠ 0) : vecMulVec a b ≠ 0 := by
+  simp only [Ne, ← ext_iff, zero_apply, not_forall, vecMulVec_apply]
+  exact ⟨(Function.ne_iff.mp ha).choose, (Function.ne_iff.mp hb).choose,
+    mul_ne_zero (Function.ne_iff.mp ha).choose_spec (Function.ne_iff.mp hb).choose_spec⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Mul.lean]:
```suggestion
  intro h
  obtain ⟨i, ha⟩ := Function.ne_iff.mp ha
  obtain ⟨j, hb⟩ := Function.ne_iff.mp hb
  exact mul_ne_zero ha hb congr($h i j)
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
